US04595677
390 mg of Z-Sar-His-Lys(Boc)-OMe are dissolved in 10 ml of 95% strength MeOH and, after the addition of 40 mg of Pd-on-carbon, hydrogenated with CO2 -absorption until saturation. The catalyst is filtered off, the filtrate is concentrated to dryness and the amorphous residue is dried to constant weight in a high vacuum at 40°, yielding H-Sar-His-Lys(Boc)-OMe; Rf (G)=0.1; Rf (E)=0.25.

reactant | Z-Sar-His-Lys(Boc)-OMe | 390 mg | N(C)(CC(=O)N[C@@H](CC1=CNC=N1)C(=O)N[C@@H](CCCCNC(=O)OC(C)(C)C)C(=O)OC)C(=O)OCC1=CC=CC=C1 | C29H42N6O8
reactant | CO2 | C(=O)=O | CO2
solvent | MeOH | CO | CH4O
product | H-Sar-His-Lys(Boc)-OMe | N(C)CC(=O)N[C@@H](CC1=CNC=N1)C(=O)N[C@@H](CCCCNC(=O)OC(C)(C)C)C(=O)OC | C21H36N6O6
